US06992087B2
A Kimble vial was charged with (1R,2S)-1-[(5-bromo-6-methoxypyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol (0.55 g, 1.63 mmol), Pd2(dba)3 (33 mg, 35 μmol), dicyclohexyl[2-(9-phenanthryl)phenyl]phosphine (64 mg), 2,4-dichlorophenylboronic acid (567 mg, 2.67 mmol), K3PO4 (1.13 g, 5.34 mmol) and toluene (15 mL). The vial was flushed with N2, sealed and heated at 110° C. for 6 hr. Cool to rt, add additional Pd2(dba)3 (33 mg) and 2,4-dichlorophenylboronic acid (0.5 g, 2.7 mmol). Continue heating overnight. Add additional Pd2(dba)3 (33 mg) and 2,4-dichlorophenylboronic acid (0.5 g, 2.7 mmol) and continue heating for 5 hr. Add additional Pd2(dba)3 (33 mg) and 2,4-dichlorophenylboronic acid (0.5 g, 2.7 mmol) and continue heating overnight. The reaction was cooled to rt, diluted with CH2Cl2, washed with sat. aq NaHCO3 and sat. aq. NaCl. Dry organic extract over MgSO4, filter and concentrate. Purify by biotage MPLC (90 g column, 30% ethyl acetate/hexanes) to afford 0.2 g (31%) of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-6-methoxypyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol as an oil: 1H NMR (CDCl3) δ 3.06-3.10, 3.26-3.32, 3.92, 4.79, 5.33, 5.49-5.50, 7.28-7.41, 7.50, 7.74; MS (ESI+) for C20H17Cl2N3O2 m/z 402 (M+H)+.

reactant | (1R,2S)-1-[(5-bromo-6-methoxypyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | 1.63 mmol, 0.55 g | BrC=1N=CC(=NC1OC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C14H14BrN3O2
reactant | dicyclohexyl[2-(9-phenanthryl)phenyl]phosphine | 64 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)C1CCCCC1 | C32H35P
reactant | 2,4-dichlorophenylboronic acid | 2.67 mmol, 567 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | K3PO4 | 5.34 mmol, 1.13 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2,4-dichlorophenylboronic acid | 2.7 mmol, 0.5 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | 2,4-dichlorophenylboronic acid | 2.7 mmol, 0.5 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | 2,4-dichlorophenylboronic acid | 2.7 mmol, 0.5 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 35 μmol, 33 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 33 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 33 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 33 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-6-methoxypyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | 0.2 g, 31% | ClC1=C(C=CC(=C1)Cl)C=1N=CC(=NC1OC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C20H17Cl2N3O2
